### PR TITLE
feat: add `popcount` to `bv_decide`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds the circuit to bitblast `BitVec.cpop` to `bv_decide`.

### CODE REVIEW

File: src/Init/Data/BitVec/Basic.lean [hunk 1]
```diff
@@ -870,4 +870,16 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
 /-- Count the number of trailing zeros. -/
 def ctz (x : BitVec w) : BitVec w := (x.reverse).clz
 
+/-- Tail-recursive definition of popcount.
+ The bitwidth of `x` explictly boundspop the number of recursions,
+ thus bounding the depth of the circuit as well correctness of def -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean]: Grammar + spell-check this comment. Add a `.` at the end of the sentence.

File: src/Init/Data/BitVec/Basic.lean [hunk 2]
```diff
@@ -870,4 +870,16 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
...
+def popCountAuxRec (x : BitVec w) (r : BitVec v) (n : Nat) :=
+  match h : (w - n) with
+  | 0 => r
+  | n' + 1 => x.popCountAuxRec (r + (x.extractLsb' n 1).zeroExtend v) (n + 1)
+termination_by (w - n)
+
+/-- Count the number of bits with value `1` in a bitvec -/
+def popCount {w : Nat} (x : BitVec w) : BitVec w := BitVec.popCountAuxRec x 0#w 0
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean]: `.` after the sentence.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -2383,5 +2383,756 @@ theorem fastUmulOverflow (x y : BitVec w) :
         have := Nat.mul_le_mul (n₁ := 2 ^ (w + 1 - (k - 1))) (m₁ := 2 ^ k) (n₂ := x.toNat) (m₂ := y.toNat) hkx hyle
         simp [← Nat.pow_add, show w + 1 - (k - 1) + k = w + 1 + 1 by omega] at this
         omega
+/-! ## Auxilliary lemmas for popcount -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:2387]: Whitespace before this line?

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Expr.lean [hunk 4]
```diff
@@ -430,7 +431,18 @@ theorem go_denote_eq (aig : AIG BVBit) (expr : BVExpr w) (assign : Assignment)
...
+=======
+    · rw [← hres]
+      simp only [eval_un, BVUnOp.eval_popCount]
+      sorry
+      -- rw [blastPopCount.denote_blastPopCount]
+      -- intros idx hidx
+      -- rw [goCache_denote_eq]
+      -- exact hinv
+  · next h =>
+>>>>>>> 93d7159630 (local build fixed)
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Expr.lean]: Git MERGE stuff.

File: src/Init/Data/BitVec/Basic.lean [hunk 5]
```diff
@@ -870,4 +870,16 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
 /-- Count the number of trailing zeros. -/
 def ctz (x : BitVec w) : BitVec w := (x.reverse).clz
 
+/-- Tail-recursive definition of popcount.
+ The bitwidth of `x` explictly boundspop the number of recursions,
+ thus bounding the depth of the circuit as well correctness of def -/
+def popCountAuxRec (x : BitVec w) (r : BitVec v) (n : Nat) :=
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
def popCountAuxRec (x : BitVec w) (r : BitVec v) (n : Nat) : BitVec v :=
```

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase cbf6fe5d1be2186da51492658cf1018f0762cc59 --onto 62f2f9229356039356c0469a46d8ecd77be88e2a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-08 17:19:39)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 3fdde57e7bec8615f59310d693a56e6f99357aa1 --onto 6a0b0c8273ab560d093494a2daa4dd3088437ad1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-15 10:28:59)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-12-18` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-18 08:58:56)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ea7c740ad485c26423a1c31bcc6cee40b3c3422c --onto 0ad15fe98273448cff34de5b777550a82e09f5f9`. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-08 17:52:43)

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Basic.lean [hunk 6]
```diff
@@ -877,4 +877,14 @@ def cpopNatRec (x : BitVec w) (pos acc : Nat) : Nat :=
...
+/-- Recursive addition of the elements in a flattened bitvec, starting from the `rem`-th element. -/
+def addRecAux (x : BitVec (l * w)) (rem : Nat) (acc : BitVec w) : BitVec w :=
+  match rem with
+  | 0 => acc
+  | n + 1 => x.addRecAux n (acc + x.extractLsb' (n * w) w)
+
+/-- Recursive addition of the elements in a flattened bitvec. -/
+def addRec (x : BitVec (l * w)) : BitVec w := addRecAux x l 0#w
+
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean:889]:
```suggestion
```

This is not needed. We now have `cpopNatRec`. However, this will break proofs below.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean:889]: I think whether this is needed or not depends on what we want to do with the circuit. at the moment I prove the denotation of the parallel prefix count in general as an addition (`addRecAux` is useful for this: we don't take one bit only, but we assume that one might want to generally add some concatenated vecs in pps). I would like to keep it general and have bitblastable parallel prefix sum that can be specialized to compute popcount. I'm curious, what do you think?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Basic.lean:889]: I see. This is a bit different from `cpopNatRec`. I thought they are identical. Let's keep this for now and just get the rebase working and compiler. We can then chat about what to pull out next.
